US06727264B1
TERT-BUTYL 4-[3-(ISOBUTYRYLAMINO)-4-METHYLPHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE:
Prepared by Procedure W and Scheme AF using N-(5-bromo-2-methylphenyl)-2-methylpropanamide and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate: ESMS m/e: 259.1 (M - 100)+.

reactant | N-(5-bromo-2-methylphenyl)-2-methylpropanamide | BrC=1C=CC(=C(C1)NC(C(C)C)=O)C | C11H14BrNO
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
product | TERT-BUTYL 4-[3-(ISOBUTYRYLAMINO)-4-METHYLPHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE | C(C(C)C)(=O)NC=1C=C(C=CC1C)C=1CCN(CC1)C(=O)OC(C)(C)C | C21H30N2O3
